US08835020B2
2,4-diphenyl-6-fluoro-N-phenylbenzenamine (6 mmol), 1,6-dibromopyrene (5 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.075 mmol), tri-tert-butylphosphine (0.15 mmol) and sodium tert-butoxie (7 mmol) are put in a two-neck round-bottom flask and dissolved in toluene (15 mL). Subsequently, the resulting solution is stirred in a bath under a temperature of about 100° C. for 24 hours. After completion of the reaction, toluene is removed. The reaction mixture is extracted with dichloromethane and water, and then being distilled under reduced pressure. The resulting residence is filtered by silica gel column and distilled under reduced pressure again. Next, after re-crystallizing and filtering with dichloromethane and acetone, and then being thermally refined to yield N1,N6-bis(2,4-diphenyl-6-fluorophenyl)-N1,N6-diphenylpyrene-1,6-diamine is yielded.

reactant | 2,4-diphenyl-6-fluoro-N-phenylbenzenamine | 6 mmol | C1(=CC=CC=C1)C1=C(C(=CC(=C1)C1=CC=CC=C1)F)NC1=CC=CC=C1 | C24H18FN
reactant | 1,6-dibromopyrene | 5 mmol | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | tri-tert-butylphosphine | 0.15 mmol | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium | [Na] | Na
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.075 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N1,N6-bis(2,4-diphenyl-6-fluorophenyl)-N1,N6-diphenylpyrene-1,6-diamine | C1(=CC=CC=C1)C1=C(C(=CC(=C1)C1=CC=CC=C1)F)N(C1=CC=C2C=CC=3C(=CC=C4C=CC1=C2C34)N(C3=CC=CC=C3)C3=C(C=C(C=C3F)C3=CC=CC=C3)C3=CC=CC=C3)C3=CC=CC=C3 | C64H42F2N2
